US06156761
Step 3: 4-(2-Bromo-5-methoxyphenyl)-3,3-dimethylbutanoic acid
To a solution of 3,3-dimethyl-4-(3-methoxyphenyl)butanoic acid (6.7 g, 0.03 mol) in DCM (100 mL) at 0° C. was added a solution of bromine (1.55 mL, 0.03 mol) in DCM (13 mL) dropwise. After addition the solution was stirred at 0° C. for 1 h then the solution was washed with water (3×100 mL), dried (Na2SO4) and evaporated. The product (8.45 g, 94%) was isolated as a brown oil and used without further purification. 1H NMR (360 MHz, CDCl3) δ 1.12 (6H, s), 2.36 (2H, s), 2.98 (2H, s), 3.80 (3H, s), 6.65 (1H, dd, J=8.7 and 3.1 Hz), 6.85 (1H, d, J=3.1 Hz), 7.43 (1H, d, J=8.7 Hz).

reactant | 3,3-dimethyl-4-(3-methoxyphenyl)butanoic acid | 0.03 mol, 6.7 g | CC(CC(=O)O)(CC1=CC(=CC=C1)OC)C | C13H18O3
reactant | bromine | 0.03 mol, 1.55 mL | BrBr | Br2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Bromo-5-methoxyphenyl)-3,3-dimethylbutanoic acid | 8.45 g, 94% | BrC1=C(C=C(C=C1)OC)CC(CC(=O)O)(C)C | C13H17BrO3
